US05703096
13(a) 5-(4-{2-[1-(2-Naphthyl)ethylideneaminooxy]-ethoxy}-benzyl)-3-tritylthiazolidine-2,4-dione
Following a procedure similar to that described in Example 1(a), but using 459 mg of 2-[1-(2-naphthyl)-ethylideneaminooxy]ethanol (prepared as described in Preparation 13), 716 mg of 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione, 525 mg of triphenylphosphine and 348 mg of diethyl azodicarboxylate, 858 mg of the title compound were obtained as a foam-like solid.

reactant | 2-[1-(2-naphthyl)-ethylideneaminooxy]ethanol | 459 mg | C1=C(C=CC2=CC=CC=C12)C(C)=NOCCO | C14H15NO2
reactant | 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione | 716 mg | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | triphenylphosphine | 525 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 348 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 5-(4-{2-[1-(2-Naphthyl)ethylideneaminooxy]-ethoxy}-benzyl)-3-tritylthiazolidine-2,4-dione | 858 mg | C1=C(C=CC2=CC=CC=C12)C(C)=NOCCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C43H36N2O4S
